* ============================================================
* Ground-truth LDO subcircuit
*   ports: vin vout   (global 0 = gnd)
*   PMOS pass + 5T NMOS-input OTA + R divider + internal Vref
*   On-chip Cout (+ESR) is INSIDE the subckt = part of the LDO.
*   Any EXTERNAL decap belongs in the testbench (defect-6 boundary).
* Requires models nlv / plv to be defined at top level.
* ============================================================
.subckt ldo_gt vin vout vref=0.6 wp=30u lp=0.3u wi=10u li=0.5u
+ wm=10u lm=0.5u wt=20u lt=0.5u wb=20u lb=0.5u ib=10u
+ r1=500k r2=1meg cout=1n resr=0.5 cg=1p

* pass device (PMOS): source=vin gate=ng drain=vout bulk=vin
mp vout ng vin vin plv W={wp} L={lp}

* 5T OTA (NMOS input pair, PMOS mirror load); neg fb: fb->diode side, vref->out
m1 n1 fb    vtail 0   nlv W={wi} L={li}
m2 ng vrefn vtail 0   nlv W={wi} L={li}
m3 n1 n1    vin   vin  plv W={wm} L={lm}
m4 ng n1    vin   vin  plv W={wm} L={lm}
mtail vtail nb 0 0     nlv W={wt} L={lt}

* tail current mirror bias
mb   nb nb 0 0         nlv W={wb} L={lb}
Ibias vin nb DC {ib}

* internal reference
Vrefs vrefn 0 DC {vref}

* feedback divider
R1 vout fb {r1}
R2 fb 0 {r2}

* on-chip output cap + ESR
Cout vout ncesr {cout}
Resr ncesr 0 {resr}

* gate-node cap: knob to place the OTA-output pole (loop Q / peaking)
Cgate ng 0 {cg}
.ends ldo_gt
