.subckt ldo_pzmig vin vout vref=0.6 wp=30u lp=0.3u wi=10u li=0.5u
+ wm=10u lm=0.5u wt=20u lt=0.5u wb=20u lb=0.5u ib=10u
+ r1=500k r2=1meg cout=12n resr=0.01 cg=6p rg=80k cg2=1p
mp vout ng2 vin vin plv W={wp} L={lp}
m1 n1 fb    vtail 0   nlv W={wi} L={li}
m2 ng vrefn vtail 0   nlv W={wi} L={li}
m3 n1 n1    vin   vin  plv W={wm} L={lm}
m4 ng n1    vin   vin  plv W={wm} L={lm}
mtail vtail nb 0 0     nlv W={wt} L={lt}
mb   nb nb 0 0         nlv W={wb} L={lb}
Ibias vin nb DC {ib}
Vrefs vrefn 0 DC {vref}
R1 vout fb {r1}
R2 fb 0 {r2}
Cout vout ncesr {cout}
Resr ncesr 0 {resr}
* OTA-output node ng + fixed-pole RC into gate node ng2 that drives the pass
Cgate ng 0 {cg}
Rgate ng ng2 {rg}
Cgate2 ng2 0 {cg2}
.ends ldo_pzmig
