* ============================================================
* GT variant -- ldo_swbleed : LOAD-THRESHOLD MODE SWITCH (A3)
*   A current-threshold-activated shunt damper. The pass-device current
*   equals the external load current; a small sense-PMOS replica (msen,
*   Vgs-offset off the pass gate ng) reproduces a load-tracking current,
*   compared at a high-impedance node `sdet` against a fixed Iref
*   (current-comparator -> SHARP threshold near ~170uA). Past the threshold
*   the shunt damper NMOS `mbleed` (W~40u) turns ON and switches in a
*   series Cblk-Rbl-Lbl branch from vout to gnd. That branch resonates at
*   f0=1/(2*pi*sqrt(Lbl*Cblk))~150kHz -> a SECOND, distinct Zout RLC NOTCH
*   that exists ONLY at high load (250u), ABSENT at 20u/121u (the model's
*   Zout fitter would select a 2nd RLC branch ONLY at the 250u corner).
*   The DC-blocking cap Cblk makes the damper draw ZERO DC current, so Vout
*   regulation is strictly untouched (Vout ~0.9V all corners) and the
*   circuit is small-signal STABLE at every fixed OP (ring-decay<1). Linear
*   at each OP; only the *structure* jumps between the 121u and 250u OPs.
* Requires models nlv / plv at top level.
* ============================================================
.subckt ldo_swbleed vin vout vref=0.6 wp=30u lp=0.3u wi=10u li=0.5u
+ wm=10u lm=0.5u wt=20u lt=0.5u wb=20u lb=0.5u ib=10u
+ r1=500k r2=1meg cout=1n resr=0.5 cg=1p
+ wsen=4u voff=0.18 wref=4u lref=0.5u rref=560k wbl=40u lbl=0.3u rbl=2 lbl_h=56u cblk=20n

* ---- pass device (PMOS): source=vin gate=ng drain=vout bulk=vin ----
mp vout ng vin vin plv W={wp} L={lp}

* ---- 5T OTA (NMOS input pair, PMOS mirror load); neg fb ----
m1 n1 fb    vtail 0   nlv W={wi} L={li}
m2 ng vrefn vtail 0   nlv W={wi} L={li}
m3 n1 n1    vin   vin  plv W={wm} L={lm}
m4 ng n1    vin   vin  plv W={wm} L={lm}
mtail vtail nb 0 0     nlv W={wt} L={lt}
mb   nb nb 0 0         nlv W={wb} L={lb}
Ibias vin nb DC {ib}
Vrefs vrefn 0 DC {vref}

* ---- feedback divider ----
R1 vout fb {r1}
R2 fb 0 {r2}

* ---- on-chip output cap + ESR ----
Cout vout ncesr {cout}
Resr ncesr 0 {resr}
Cgate ng 0 {cg}

* ---- LOAD-CURRENT SENSE w/ Vgs-OFFSET + CURRENT-COMPARATOR THRESHOLD ----
*   The pass-device source-gate voltage Vsg=vin-ng tracks the load current
*   monotonically (more load -> ng lower -> bigger |Vsg|). A replica sense
*   PMOS `msen` shares the gate `ng` but its SOURCE sits a fixed offset
*   `voff` below vin (rail `vsrc`), so its current Isen(ng) rises steeply
*   (sub-threshold exponential) with load.  Isen is compared, at the
*   high-impedance node `sdet`, against a fixed reference sink current
*   Iref (Rref-set, mirrored mrefd->mref). Below the cross-over load the
*   reference wins -> sdet pulled to gnd (mbleed OFF); above it the sense
*   current wins -> sdet swings up to vsrc (mbleed ON). Both ends are
*   current sources => HIGH GAIN at the cross-over => a SHARP load
*   threshold near ~170uA. All branches draw only ~1uA -> DC-negligible.
Voff vin vsrc DC {voff}
msen sdet ng vsrc vsrc plv W={wsen} L={lp}
* reference current ~1uA (Rref from vin into a diode NMOS), mirrored to sink at sdet
Rref  vin nrefd {rref}
mrefd nrefd nrefd 0 0 nlv W={wref} L={lref}
mref  sdet  nrefd 0 0 nlv W={wref} L={lref}

* ---- THRESHOLD-ACTIVATED SHUNT DAMPER from vout to gnd ----
*   gate driven by detector node sdet; mbleed sub-Vth (off) at low load,
*   conducts above threshold.  Series Cblk-Rbl-Lbl through mbleed: the
*   DC-blocking cap (cblk) makes the branch draw ZERO DC current (Vout
*   regulation strictly untouched), while its series R-L-C resonance with
*   nothing-but-itself presents a low-impedance NOTCH on vout at
*   f0=1/(2*pi*sqrt(lbl_h*cblk)) ~ 0.5MHz -- a SECOND, distinct Zout RLC
*   feature that appears ONLY when mbleed conducts (high load).  Below
*   threshold mbleed is open -> branch invisible (single resonance only).
Cblk  vout ncb {cblk}
Rbl   ncb  nrl {rbl}
Lbl   nrl  nbl {lbl_h}
mbleed nbl sdet 0 0   nlv W={wbl} L={lbl}
.ends ldo_swbleed
